US07750156B2
202 mg of 4-hydroxypiperidine and 448 mg of 1,4-cyclohexanedione were heated under reflux in 10 ml of ethanol and reacted for 9 hours with introducing air with a pump. During the reaction, ethanol was added as needed. After the completion of the reaction, the resultant was separated by silica gel column chromatography (n-hexane:ethyl acetate=2:1) and 0.218 g of 1-(4-hydroxyphenyl)-4-hydroxypiperidine was obtained (yield 56.48%).

reactant | 4-hydroxypiperidine | 202 mg | OC1CCNCC1 | C5H11NO
reactant | 1,4-cyclohexanedione | 448 mg | C1(CCC(CC1)=O)=O | C6H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-hydroxyphenyl)-4-hydroxypiperidine | 0.218 g, yield 56.48% | OC1=CC=C(C=C1)N1CCC(CC1)O | C11H15NO2
